US08455475B2
tert-Butyl 9-(pyrrolidine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate
N-Ethyl-diisopropylamine (4 eq.) was added to a solution of 3-(tert-butoxycarbonyl)-3-azaspiro[5.5]undecane-9-carboxylic acid (commercially obtainable from Anthem, Order No. A1106) (0.35 g, 1.18 mmol, 1 eq.) in methylene chloride. The reaction mixture was cooled to 0° C. and N-ethyl-N′-3-(dimethylamino)-propyl-carbodiimide hydrochloride (1.2 eq.) and 1-hydroxybenzotriazole hydrate (0.2 eq.) were then added. The mixture was stirred at this temperature for 15 min, before the amine (1.1 eq.) was finally added. The reaction mixture was then stirred at room temperature overnight. For working up, the reaction mixture was washed in each case 1× with 10% strength NH4Cl solution, sat. NaHCO3 solution and sat. NaCl solution. The organic phase was dried over sodium sulfate, filtered and concentrated. The crude product was purified by column chromatography (silica; ethyl acetate/ethanol) in order to obtain the desired product. Yield: 0.23 g (56%)

reactant | N-Ethyl-diisopropylamine | 4 eq. | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-(tert-butoxycarbonyl)-3-azaspiro[5.5]undecane-9-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC2(CC1)CCC(CC2)C(=O)O | C16H27NO4
reactant | 1-hydroxybenzotriazole hydrate | 0.2 eq. | O.ON1N=NC2=C1C=CC=C2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | tert-Butyl 9-(pyrrolidine-1-carbonyl)-3-azaspiro[5.5]undecane-3-carboxylate | N1(CCCC1)C(=O)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C20H34N2O3
